US05342953
contacting the N-(2-chlorobenzyl)-2-oxo-1,2,3-oxathiazolidine with ruthenium dioxide hydrate and aqueous sodium hypochlorite to give N-(2-chlorobenzyl)-2,2-dioxo-1,2,3-oxathiazolidine,

reactant | N-(2-chlorobenzyl)-2-oxo-1,2,3-oxathiazolidine | ClC1=C(CN2S(OCC2)=O)C=CC=C1 | C9H10ClNO2S
reactant | sodium hypochlorite | Cl[O-].[Na+]
catalyst | ruthenium dioxide hydrate | O.[Ru](=O)=O
product | N-(2-chlorobenzyl)-2,2-dioxo-1,2,3-oxathiazolidine | ClC1=C(CN2S(OCC2)(=O)=O)C=CC=C1 | C9H10ClNO3S
